US04992432
A mixture of 1.3 g (0.003 mol) of (+)-cis-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-4[2-(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one and 30 mL 0.5 M potassium carbonate in 45 mL ethanol was stirred at room temperature for one hour. The solvent was removed under reduced pressure and the residue was partitioned between water and ethyl acetate. The ethyl acetate solution was washed with brine and dried (MgSO4). Removal of the solvent gave the crude base, which after recrystallization from ether afforded 1.1 g (94%) of (+)-cis-6,7-dihydro-6-hydroxy-7-(4-methoxyphenyl)-4-[2 -(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one, mp 110°-112°, [α]25 +122.72° (C 1.01, MeOH).

reactant | (+)-cis-6-(acetyloxy)-6,7-dihydro-7-(4-methoxyphenyl)-4[2-(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one | 0.003 mol, 1.3 g | C(C)(=O)O[C@@H]1C(N(C(=CS[C@@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)CCN(C)C)=O | C24H28N2O4S
reactant | potassium carbonate | 0.5 M, 30 mL | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | (+)-cis-6,7-dihydro-6-hydroxy-7-(4-methoxyphenyl)-4-[2 -(dimethylamino)ethyl]-3-phenyl-1,4-thiazepin-5(4H)-one | 1.1 g, 94% | O[C@@H]1C(N(C(=CS[C@@H]1C1=CC=C(C=C1)OC)C1=CC=CC=C1)CCN(C)C)=O | C22H26N2O3S
